US07812022B2
Step D: 3-(4-Methyl-1,3-oxazol-5-yl)aniline
A solution of the nitrobenzene adduct (50 g) produced in the previous step C in MeOH (600 mL) was prepared in parr-shaker bottle; Pd/C (5 g) was transferred carefully and hydrogenated at 3.5 kg pressure for 20 h. The reaction mixture was filtered over celite bed and the filtrate was concentrated. The residue was purified by silica gel column chromatograph using 40% EtOAc in pet.ether to get yellow color solid. Yield 18 g (42%). 1H NMR (400 MHz, DMSO-d6) δ 8.23 (s, 1H), 7.08 (t, J=8.0 Hz, 1H), 6.82 (s, 1H), 6.71 (d, J=7.9 Hz, 1H), 6.52 (d, J=8.2 Hz, 1H), 5.24 (s, 2H), 2.29 (s, 3H).

reactant | nitrobenzene | 50 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | MeOH | 600 mL | CO | CH4O
catalyst | Pd/C | 5 g | [Pd] | Pd
product | 3-(4-Methyl-1,3-oxazol-5-yl)aniline | CC=1N=COC1C=1C=C(N)C=CC1 | C10H10N2O
